US04236009
Following the procedure set forth in Example 5, 4a-(3-methoxyphenyl)-2-methyl-3,4,4a,5,6,7-hexahydro-2-pyrindine was hydrogenated over platinum oxide to provide a 60:40 mixture of trans-4-a-(3-methoxyphenyl)-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine and the corresponding cisosomer. The trans isomer was crystallized as the picrate salt. The cis isomer was isolated as the free base, namely cis-4a-(3-methoxyphenyl)-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine; M.P.=40°-43° C.

reactant | 4a-(3-methoxyphenyl)-2-methyl-3,4,4a,5,6,7-hexahydro-2-pyrindine | COC=1C=C(C=CC1)C12CCN(C=C2CCC1)C | C16H21NO
catalyst | platinum oxide | [Pt]=O
product | cis-4a-(3-methoxyphenyl)-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | COC=1C=C(C=CC1)[C@@]12CCN(C[C@H]2CCC1)C | C16H23NO
